US04921850
The compound (1.00 g) prepared in Experiment 4 was dissolved in dimethylformamide (2 ml). A solution of N,N-dimethyl-D-serinamide was prepared by dissolving N,N-dimethyl-D-serinamide trifluoroacetate (590 mg) in methanol (5 ml), adding 1N-aqueous sodium hydroxide solution (2.4 ml) thereto, followed by distilling off the solvent under reduced pressure, and extracting the residue with acetonitrile (2 ml). The N,N-dimethyl-D-serinamide solution was added to the solution of the compound prepared in Experiment 4 in dimethylformamide under ice-cooling. The resulting solution was stirred for 30 minutes. The reaction solution was added to ethyl ether, and the resulting precipitates were collected by filtration to obtain yellow powder (1.1 g).

reactant | N,N-dimethyl-D-serinamide trifluoroacetate | 590 mg | FC(C(=O)O)(F)F.CN(C([C@H](N)CO)=O)C
reactant | sodium hydroxide | 2.4 ml | [OH-].[Na+]
reactant | ethyl ether | C(C)OCC | C4H10O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | methanol | 5 ml | CO | CH4O
product | N,N-dimethyl-D-serinamide | CN(C([C@H](N)CO)=O)C | C5H12N2O2
